US05889056
Preparation of S-benzylthioacetimidate hydrochloride (intermediate)
A mixture of thioacetamide (15.0 g, 0.20 mol) and benzyl chloride (25.3 g, 0.20 mol) in chloroform (75 ml) was heated under reflux for 90 minutes (the thioacetamide required ~40 minutes to go into solution). The reaction mixture was then allowed to cool to room temperature and was then stood at 0° C. overnight, when colourless crystals formed as a layer on the surface. The product was filtered off, washed with cold 10% ether-chloroform and sucked dry to give the title compound (25.55 g) as colourless prisms. Mpt.=161°-163° C.

reactant | thioacetamide | 0.20 mol, 15.0 g | C(C)(=S)N | C2H5NS
reactant | benzyl chloride | 0.20 mol, 25.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | S-benzylthioacetimidate hydrochloride | 25.55 g, 85% yield | Cl.C(C1=CC=CC=C1)SC(C)=N | InChI=1S/C9H11NS.ClH/c1-8(10)11-7-9-5-3-2-4-6-9;/h2-6,10H,7H2,1H3;1H
